US09079866B2
1-(4′-(5-Aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)imidazolidin-2-one
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-(2-bromophenyl)imidazolidin-2-one. MS (ESI): mass calcd. for C19H16FN5O, 349.13; m/z found, 350.0 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.41 (s, 1H), 8.10 (s, 1H), 7.94 (m, 1H), 7.81-7.77 (m, 1H), 7.51-7.46 (m, 5H), 3.51 (t, J=6.2, 2H), 3.37 (t, J=6.2, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-(2-bromophenyl)imidazolidin-2-one | BrC1=C(C=CC=C1)N1C(NCC1)=O | C9H9BrN2O
product | 1-(4′-(5-Aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)imidazolidin-2-one | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)N1C(NCC1)=O)F | C19H16FN5O
